US07259163B2
4-tert-Butyl-3-ethoxybenzoic acid
Prepared in a similar manner to that described for 4-tert-butyl-3-methoxybenzoic acid (J. Org. Chem. (1961) 26,1732), replacing methyl iodide with ethyl iodide.

reactant | 4-tert-butyl-3-methoxybenzoic acid | C(C)(C)(C)C1=C(C=C(C(=O)O)C=C1)OC | C12H16O3
reactant | ethyl iodide | C(C)I | C2H5I
product | 4-tert-Butyl-3-ethoxybenzoic acid | C(C)(C)(C)C1=C(C=C(C(=O)O)C=C1)OCC | C13H18O3
